US06251926B1
A 1N aqueous saturated solution of sodium hydroxide (7 ml) was added to a solution of ethyl Z-2-(3-benzoylphenyl)2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate (800 mg) in tetrahydrofuran (14 ml)-methanol (7 ml) and stirred at 40° C. for 1 hour. 1N hydrochloric acid (7.5 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain Z-2-(3-benzoylphenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetic acid (608 mg, yield 80%) as orange crystals. m.p. 185-186° C. (decomposition)

reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | ethyl Z-2-(3-benzoylphenyl)2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate | 800 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)/C(/C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C35H30N2O6
reactant | methanol | 7 ml | CO | CH4O
reactant | hydrochloric acid | 1N, 7.5 ml | Cl | ClH
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | Z-2-(3-benzoylphenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetic acid | 608 mg, yield 80% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)/C(/C(=O)O)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H26N2O6
